* C:\Users\2005B\OneDrive\Desktop\PCB Project\555timer\555timer.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 N002 Vout N001 N004 N002 N003 N001 NE555
C1 0 N004 0.01µF
C2 0 N002 10µF
RB N003 N002 10k
RA N001 N003 1k
V1 N001 0 5
R3 N001 Vout 1k
R4 Vout 0 1k
.tran 1
.meas tran vmax max V(OUT)
.lib NE555.sub
.backanno
.end
